US08957064B2
2-{1-[4-(6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzyl]-piperidin-4-yl}-3H-imidazo[4,5-b]pyridine
By reacting 150 mg (0.5 mmol) 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde with 122 mg (0.6 mmol) 2-piperidine-4-yl-3H-imidazo[4,5-b]pyridine hydrochloride salt as described in example 6.0 the desired compound (166 mg) was obtained after purification on silicagel.

reactant | 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | 0.5 mmol, 150 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=O)C=C2 | C19H13N3O
reactant | 2-piperidine-4-yl-3H-imidazo[4,5-b]pyridine hydrochloride salt | 0.6 mmol, 122 mg | Cl.N1CCC(CC1)C1=NC=2C(=NC=CC2)N1
product | 2-{1-[4-(6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzyl]-piperidin-4-yl}-3H-imidazo[4,5-b]pyridine | 166 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(CN1CCC(CC1)C1=NC=3C(=NC=CC3)N1)C=C2 | C30H27N7
